US05902902
A 250 ml round bottomed flask, fitted with refrigerator, under a nitrogen stream, is loaded with 3-bromoaniline (2 ml), dimethylformamide (10 ml), trimethylsilylacetylene (3.4 ml), 1,1,3,3-tetramethyl guanidine (2.5 ml), CuCl (3.6 mg), PdCl2 (9.7 mg) triphenyl phosphine (58 mg), in this order. The mixture is heated to 55°-57° C. keeping this temperature until completion of the reaction. H2O (50 ml) and ACOEt (50 ml) are added at a temperature of 35°-30° C. The organic phase is evaporated to dryness and the residue is dissolved in CH3OH (10 ml) and 50% HCl (10 ml) is heated to 40-50° C. for two hours. Methanol is evaporated off and the residual mixture is treated with NaOH, extracted with toluene. The organic phase is dried, and the solvent removed under vacuum affording 3-amino-phenyl acetylene.

reactant | 3-bromoaniline | 2 ml | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | trimethylsilylacetylene | 3.4 ml | C[Si](C)(C)C#C | C5H10Si
reactant | 1,1,3,3-tetramethyl guanidine | 2.5 ml | CN(C(=N)N(C)C)C | C5H13N3
catalyst | CuCl | 3.6 mg | Cl[Cu]
catalyst | PdCl2 | 9.7 mg | Cl[Pd]Cl
solvent | H2O | 50 ml | O | H2O
product | 3-amino-phenyl acetylene | NC=1C=C(C=CC1)C#C | C8H7N
